US07964643B2
4′-Trifluoromethoxybiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-306)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide and 4-trifluoromethoxyphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 25.9, 29.6, 42.6, 60.2, 121.7, 127.1, 127.4, 129.0, 137.9, 139.8, 142.3 and 148.5.

reactant | 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C10H14BrNO3S
reactant | 4-trifluoromethoxyphenyl boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 4′-Trifluoromethoxybiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C17H18F3NO4S
